### PR TITLE
[Merged by Bors] - chore: golf proof for `choose_le_two_pow`

### PR DESCRIPTION
**Pull request by BoltonBailey**
This is a quick PR for golf I noticed on a lemma bounding `Nat.choose`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Bounds.lean [hunk 1]
```diff
@@ -79,11 +79,8 @@ theorem choose_lt_two_pow (n k : ℕ) (p : 0 < n) : n.choose k < 2 ^ n := by
...
 
 theorem choose_le_two_pow (n k : ℕ) : n.choose k ≤ 2 ^ n := by
-  obtain (rfl | hk) := eq_zero_or_pos k
-  · simp [Nat.one_le_two_pow]
-  · obtain (rfl | hn) := eq_zero_or_pos n
-    · have : choose 0 k = 0 := by convert Nat.choose_zero_succ (k - 1); omega
-      simp [this]
-    · exact (Nat.choose_lt_two_pow _ _ hn).le
+  obtain (rfl | hk) := eq_zero_or_pos n
+  · cases k <;> simp
```
Comment (grunweg) [inline Mathlib/Data/Nat/Choose/Bounds.lean:83]: Why do you prefer this one?

**Review by grunweg — COMMENTED** [review]
Thanks for your PR. One question, otherwise LGTM!

File: Mathlib/Data/Nat/Choose/Bounds.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/Data/Nat/Choose/Bounds.lean:83]: I actually hadn't noticed that the last line could remain the same, so I've changed that back. The n = 0 case is effectively what is being golfed here.

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
